US07935712B2
2-{1′-[(4,8-Dimethoxyquinolin-2-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}-2-methylpropanoic acid
2-{1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-4-oxospiro[chromane-2,4′-piperidin]-6-yl}-2-methylpropanoic acid benzyl ester (830 mg) was dissolved in 25 mL of MeOH and hydrogenated at 1.5 atmosphere over 100 mg of 10% Pd/C for 5 hrs. The mixture was filtered and the filtrate was concentrated and purified on preparative SiO2 PTC (CHCl3/MeOH=10:1) to give the intended compound as a colorless amorphous solid. 1H-NMR (400 MHz, CD3OD), 7.93 (1H, s), 7.88 (1H, d, J=2.3 Hz), 7.81 (1H, d, J=8.8 Hz), 7.65 (1H, dd, J=8.8 Hz, 2.3 Hz), 7.55 (1H, t, J=8.2 Hz), 7.27 (1H, J=8.2 Hz), 7.17 (1H, s), 7.10 (1H, d, J=8.2 Hz), 4.5-4.6 (1H, m), 4.15 (3H, s), 4.06 (3H, s), 3.3-3.7 (3H, m), 2.90 (1H, d, J=16.5 Hz), 2.84 (1H, d, J=16.5 Hz), 1.9-2.3 (4H, m). MS [M+H]+=519.

reactant | 2-{1′-[(4,8-dimethoxyquinolin-2-yl)carbonyl]-4-oxospiro[chromane-2,4′-piperidin]-6-yl}-2-methylpropanoic acid benzyl ester | 830 mg | C(C1=CC=CC=C1)OC(C(C)(C)C=1C=C2C(CC3(CCN(CC3)C(=O)C3=NC4=C(C=CC=C4C(=C3)OC)OC)OC2=CC1)=O)=O | C36H36N2O7
solvent | MeOH | 25 mL | CO | CH4O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 2-{1′-[(4,8-Dimethoxyquinolin-2-yl)carbonyl]-4-oxospiro[chroman-2,4′-piperidin]-6-yl}-2-methylpropanoic acid | COC1=CC(=NC2=C(C=CC=C12)OC)C(=O)N1CCC2(CC1)OC1=CC=C(C=C1C(C2)=O)C(C(=O)O)(C)C | C29H30N2O7
